US06927228B2
N-[4′-(2,4-Dioxothiazolidin-5-ylmethyl)biphenyl-3-ylmethyl]-N-methyl-4-propylbenzamide
In a manner similar to that of Example 37(e), by reacting 500 mg (1.1 mmol) of 5-(3′-methylaminomethylbiphenyl-4-ylmethyl)thiazolidine-2,4-dione trifluoroacetate with 210 μl (1.2 mmol) of 4-propylbenzoyl chloride and after purification, 300 mg (55%) of N-[4′-(2,4-dioxothiazolidin-5-ylmethyl)-biphenyl-3-ylmethyl]-N-methyl-4-propylbenzamide, with a melting point of 280° C., are obtained.

reactant | 5-(3′-methylaminomethylbiphenyl-4-ylmethyl)thiazolidine-2,4-dione trifluoroacetate | 1.1 mmol, 500 mg | FC(C(=O)O)(F)F.CNCC=1C=C(C=CC1)C1=CC=C(C=C1)CC1C(NC(S1)=O)=O
reactant | 4-propylbenzoyl chloride | 1.2 mmol, 210 μl | C(CC)C1=CC=C(C(=O)Cl)C=C1 | C10H11ClO
product | N-[4′-(2,4-Dioxothiazolidin-5-ylmethyl)biphenyl-3-ylmethyl]-N-methyl-4-propylbenzamide | O=C1SC(C(N1)=O)CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(C1=CC=C(C=C1)CCC)=O)C | C28H28N2O3S
